US09210932B2
Step A: Preparation of N-[(2-chloro-5-thiazolyl)methyl]-1-isoquinolinamine
A mixture of 1-aminoisoquinoline (0.56 g, 3.9 mmol) and 2-chloro-5-(chloromethyl)thiazole (0.50 g, 3.0 mmol) in N-methylpyrrolidinone (3 mL) was heated to 220° C. in a microwave reactor for 10 min. The reaction mixture was cooled to room temperature, diluted with water (20 mL), and extracted with diethyl ether (5×20 mL). The combined organic extracts were concentrated under reduced pressure, and the resulting residue was purified by chromatography on silica gel eluted with 20-50% ethyl acetate/hexane to give the title compound as a pale yellow solid (0.09 g).

reactant | 1-aminoisoquinoline | 3.9 mmol, 0.56 g | NC1=NC=CC2=CC=CC=C12 | C9H8N2
reactant | 2-chloro-5-(chloromethyl)thiazole | 3.0 mmol, 0.50 g | ClC=1SC(=CN1)CCl | C4H3Cl2NS
solvent | N-methylpyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 20 mL | O | H2O
product | N-[(2-chloro-5-thiazolyl)methyl]-1-isoquinolinamine | 0.09 g | ClC=1SC(=CN1)CNC1=NC=CC2=CC=CC=C12 | C13H10ClN3S
